US05877202
Levulinic acid methyl ester
Combine levulinic acid (6.0 g) and Amberlyst 15 in methanol (75 mL). After 24 hours, remove the resin by filtration and evaporate in vacuo to obtain a residue. Partition the residue between ethyl acetate and saturated sodium bicarbonate solution. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | levulinic acid | 6.0 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | methanol | 75 mL | CO | CH4O
product | Levulinic acid methyl ester | COC(CCC(=O)C)=O | C6H10O3
